US07074794B2
Using ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate (2.00 g) and piperazine (19.7 g), and by a reaction at 100° C. in the same manner as in Example 196 (1), 1-[2-(1-ethoxycarbonyl-1-methylethyl)-6-imidazo[1,2-b]pyridazinyl]piperazine (2.37 g) was obtained as an oil.

reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 2.00 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | piperazine | 19.7 g | N1CCNCC1 | C4H10N2
product | 1-[2-(1-ethoxycarbonyl-1-methylethyl)-6-imidazo[1,2-b]pyridazinyl]piperazine | 2.37 g | C(C)OC(=O)C(C)(C)C=1N=C2N(N=C(C=C2)N2CCNCC2)C1 | C16H23N5O2
